US08530489B2
Preparation 4: 2-(4-chloro-5-cyanopyrimidin-2-ylamino)-2-methyl-N-(2,2,2-trifluoroethyl)propanamide
2,4-dichloropyrimidine-5-carbonitrile (E. F. Godefroi, J. Org. Chem., 1962, 27(6), 2264-6) (0.10 g, 0.57 mmol), 2-amino-2-methyl-N-(2,2,2-trifluoroethyl)propanamide. 1TFA (Meinke, Peter T.; Shih, Thomas L.; Fisher, Michael H., U.S. Pat. No. 6,221,894 B1) (0.171 g, 1.14 mmol) and DIPEA (0.39 mL, 2.29 mmol) were combined in anhydrous THF (5 mL) in a sealed tube and heated to 90° C. for 18 hours, before cooling to room temperature. The solvent was evaporated in vacuo and the residue purified by flash chromatography (40 g SiO2, pentane/ethyl acetate, 30-70% over 14 column volumes) to afford the title compound as a colorless waxy solid (0.036 g, 19.7%).

reactant | 2,4-dichloropyrimidine-5-carbonitrile | 0.57 mmol, 0.10 g | ClC1=NC=C(C(=N1)Cl)C#N | C5HCl2N3
reactant | 2-amino-2-methyl-N-(2,2,2-trifluoroethyl)propanamide | NC(C(=O)NCC(F)(F)F)(C)C | C6H11F3N2O
reactant | DIPEA | 2.29 mmol, 0.39 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-(4-chloro-5-cyanopyrimidin-2-ylamino)-2-methyl-N-(2,2,2-trifluoroethyl)propanamide | ClC1=NC(=NC=C1C#N)NC(C(=O)NCC(F)(F)F)(C)C | C11H11ClF3N5O
